US06710192B2
Preparation of Pd/TS-1 Catalyst
Pd was supported on TS-1 by suspending TS-1 (1.6% Ti, 20 grams) in deionized water (80 grams), in the presence of tetraamine palladium nitrate (5% Pd, 2.542 grams) at 80° C. for 24 hours. The solid was recovered by filtration under pressurized N2, washed with deionized water (150 mL, three times), dried under house vacuum at 50° C. overnight, and calcined at 150° C. for 4 hrs in 5% O2-95% N2 mixture. The resulting catalyst has 0.47 wt % Pd. Pd/TS-1 catalyst (2 grams) was then suspended in 75 wt % MeOH -25 wt % H2O (100 grams) and preactivated in a 100 cc/min gas flow (10% C3H6, 4% O2, and 4% H2) at 45 C. and 3 psig for 22 hours.

reactant | Pd | [Pd] | Pd
reactant | TS-1 | 20 grams | C1CC(OC1)N2C=C(C(=O)NC2=O)F | C8H9FN2O3
solvent | water | 80 grams | O | H2O
product | Pd TS-1 | [Pd].C1CC(OC1)N2C=C(C(=O)NC2=O)F | InChI=1S/C8H9FN2O3.Pd/c9-5-4-11(6-2-1-3-14-6)8(13)10-7(5)12;/h4,6H,1-3H2,(H,10,12,13);
